US08071592B2
(e) 6-Fluoro-10-(2-propen-1-yl)-2,3-dihydro[1,4]dioxino[2,3-h]quinolin-10-ium Iodide
6-fluoro-2,3-dihydro[1,4]dioxino[2,3-h]quinoline (2.78 g, 13.6 mmol) and allyl iodide (2.5 ml, 27.2 mmol) in toluene (50 ml) under argon was heated at 90° C. than at 120° C. for 5 h. The reaction was cooled to rt, the solvent decanted and the solid dried in the vacuum oven at 40° C. overnight to afford the desired product (4 g, 80%).

reactant | 6-fluoro-2,3-dihydro[1,4]dioxino[2,3-h]quinoline | 13.6 mmol, 2.78 g | FC=1C=2C=CC=NC2C2=C(C1)OCCO2 | C11H8FNO2
reactant | allyl iodide | 27.2 mmol, 2.5 ml | C(C=C)I | C3H5I
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Fluoro-10-(2-propen-1-yl)-2,3-dihydro[1,4]dioxino[2,3-h]quinolin-10-ium Iodide | 4 g, 80% | [I-].FC=1C=2C=CC=[N+](C2C2=C(C1)OCCO2)CC=C | InChI=1S/C14H13FNO2.HI/c1-2-5-16-6-3-4-10-11(15)9-12-14(13(10)16)18-8-7-17-12;/h2-4,6,9H,1,5,7-8H2;1H/q+1;/p-1
